US05252587
4-(trimethylsilyl)-2-butynol [J. Pernet, B. Randrianoelina, and L. Miginiac, Tetrahedron Letters, 25, 651, (1984)] (10 g, 70 mmol) is dissolved in dry diethyl ether (150 ml) and phosphorous tribromide (2.2 ml, 23.3 mmol) is added dropwise. Then the mixture is refluxed, protected from the light during 2.5 hours. The reaction is washed twice with water, once with aqueous sodium bicarbonate and then once with water. The organic layer is dried over sodium sulfate. The solvent is evaporated under reduced pressure to afford the expected bromide (4-bromo-2-butynyl)trimethylsilane (1.4 g, 97%) which is used without purification.

reactant | 4-(trimethylsilyl)-2-butynol | 70 mmol, 10 g | C[Si](CC#CCO)(C)C | C7H14OSi
reactant | phosphorous tribromide | 23.3 mmol, 2.2 ml | P(Br)(Br)Br | Br3P
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | bromide (4-bromo-2-butynyl)trimethylsilane | 1.4 g, 97% | BrCC#CC[Si](C)(C)C.[Br-] | InChI=1S/C7H13BrSi.BrH/c1-9(2,3)7-5-4-6-8;/h6-7H2,1-3H3;1H/p-1
